US07414050B2
To a solution of acetic acid 3-acetoxy-2-(4-amino-phenyl)-propyl ester (Tetrahedron, 46(20), 7081, (1990), 1.2 g, 5.0 mmol) in DCM (50 mL), NBS (903 mg, 5.07 mol) was added at 0° C. The resulting mixture was stirred at RT for 2 h and subjected to the usual work up to obtain acetic acid 3-acetoxy-2-(4-amino-3-bromo-phenyl)-propyl ester (1.4 g, 89%) which was directly used in the next step.

reactant | acetic acid 3-acetoxy-2-(4-amino-phenyl)-propyl ester | 5.0 mmol, 1.2 g | C(C)(=O)OCC(COC(C)=O)C1=CC=C(C=C1)N | C13H17NO4
reactant | NBS | 5.07 mol, 903 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | acetic acid 3-acetoxy-2-(4-amino-3-bromo-phenyl)-propyl ester | 1.4 g, 89% | C(C)(=O)OCC(COC(C)=O)C1=CC(=C(C=C1)N)Br | C13H16BrNO4
